US05389640
α,α-Dimethyl-2-methoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol
3-Amino-4-(2-hydroxy-2-methylpropylamino)quinoline (7.5 g, 32 mmol) was combined with methoxyacetic acid (7.5 mL, 97 mmol) and heated at about 170° C. for about 3 hours. The resulting solid residue was dissolved in ethyl acetate (150 mL). The ethyl acetate solution was extracted twice with 0.2N sodium hydroxide, washed with water, dried over magnesium sulfate, treated with activated charcoal and then concentrated to a volume of about 50 mL. Hexane was added to the ethyl acetate and the resulting precipitate was collected and dried to provide 0.9 g of the desired product as a crystalline solid, m.p. 145°-148° C.

reactant | 3-Amino-4-(2-hydroxy-2-methylpropylamino)quinoline | 32 mmol, 7.5 g | NC=1C=NC2=CC=CC=C2C1NCC(C)(C)O | C13H17N3O
reactant | methoxyacetic acid | 97 mmol, 7.5 mL | COCC(=O)O | C3H6O3
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | α,α-Dimethyl-2-methoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 0.9 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)COC)(O)C | C16H19N3O2
